US05199970
Preparation of N-allyl-2-[4-(5-trifluoromethyl-2-pyridyloxy)phenoxy]-propionic acid amide (compound Nos. 3, 4 and 5)
A mixture containing 11.85 g (0.035 mol) of methyl 2-[4-(5-trifluoromethyl-2-pyridyloxy)phenoxy]-propionate and 11.5 g (0.2 mol) of allylamine is boiled under reflux (about 60° C.) for 10 hours. (The reaction is followed by gas chromatography.) Thereafter, the excess of allylamine is distilled off and the residue is dissolved in benzene. After washing the solution cooled down with 5% aqueous hydrochloric acid and then with saturated sodium chloride solution, the organic phase is dried over anhydrous magnesium sulfate and evaporated. The crude product is recrystallized from petroleum ether (b.p. 120° C.) containing a small amount of toluene.

reactant | methyl 2-[4-(5-trifluoromethyl-2-pyridyloxy)phenoxy]-propionate | 0.035 mol, 11.85 g | FC(C=1C=CC(=NC1)OC1=CC=C(OC(C(=O)OC)C)C=C1)(F)F | C16H14F3NO4
reactant | allylamine | 0.2 mol, 11.5 g | C(C=C)N | C3H7N
product | N-allyl-2-[4-(5-trifluoromethyl-2-pyridyloxy)phenoxy]-propionic acid amide | C(C=C)NC(C(C)OC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F)=O | C18H17F3N2O3
